US05476855
To a solution of 5-bromo-2,4-bis(benzyloxy)pyrimidine (742 mg, 2 mmol) in dry THF (10 mL) at -80° C. was added dropwise n-BuLi (1.6M, 1.5 mL, 2.4 mmol) with stirring under an argon atmosphere. After the mixture was stirred for 15 min, diphenyl diselenide (1.25 g, 4 mmol) dissolved in THF (10 mL) was added and the temperature was maintained below -70° C. After 1 h. at that temperature, the reaction mixture was quenched with glacial AcOH (0.5 mL), and the solution was allowed to warm to room temperature. The solution was concentrated to dryness in vacuo, and the residue was purified by silica gel column chromatography using hexane: CH2CL2 (6:4) as eluent to yield a white solid which was crystallized from EtOH to give white needles of 5-phenylselenenyl-2,4-bis(benzyloxy)pyrimidine (778 mg, 87%); m.p. 66°-68° C.; 1H NMR (CDCl3) δ5.38 and 5.42 (2 s, 4H, CH2), 7.23-7.49 (m, 15H, 2 Ph and SePh), 8.26 (s, 1H, 6-H). Anal. (C24H20N2O2Se) C, H, N.

reactant | 5-bromo-2,4-bis(benzyloxy)pyrimidine | 2 mmol, 742 mg | BrC=1C(=NC(=NC1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C18H15BrN2O2
reactant | n-BuLi | 2.4 mmol, 1.6M, 1.5 mL | [Li]CCCC
reactant | diphenyl diselenide | 4 mmol, 1.25 g | C1(=CC=CC=C1)[Se][Se]C1=CC=CC=C1 | C12H10Se2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-phenylselenenyl-2,4-bis(benzyloxy)pyrimidine | 778 mg, 87% | C1(=CC=CC=C1)[Se]C=1C(=NC(=NC1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C24H20N2O2Se
